US08247429B2
N-[2-(2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]acetamide
2-(2-Phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine (200 mg, 0.721 mmol) was dissolved in tetrahydrofuran (7 mL), triethylamine (201 μL, 1.44 mmol) and acetic anhydride (81.8 μL, 0.865 mmol) were added under ice-cooling, and the mixture was stirred for 15 min. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (195 mg, total yield from Reference Example 65, 69%).

reactant | 2-(2-Phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine | 0.721 mmol, 200 mg | C1(=CC=CC=C1)C1=NN2C(C3=C(C=C2)CCC3CCN)=C1 | C18H19N3
reactant | triethylamine | 1.44 mmol, 201 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.865 mmol, 81.8 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | N-[2-(2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]acetamide | 195 mg, 69% | C1(=CC=CC=C1)C1=NN2C(C3=C(C=C2)CCC3CCNC(C)=O)=C1 | C20H21N3O
